US04086278
Potassium bisulfate (4 g.) is added to 1,1-di(ethylthio)-octadecane (20 g.) and the resulting mixture is heated under vacuum (200-250 mm.) at 195° C for 6 hrs., cooled to room temperature and dissolved in ether (100 ml.). The ether solution is washed with aqueous sodium bicarbonate and water and then dried over MgSO4. The solvent is removed and the residue is distilled twice to afford 1-ethylthio-1-octadecene (b.p. 181°-183°, 0.8 mm.) as a colorless liquid.

reactant | Potassium bisulfate | 4 g | S([O-])(O)(=O)=O.[K+]
reactant | 1,1-di(ethylthio)-octadecane | 20 g | C(C)SC(CCCCCCCCCCCCCCCCC)SCC | C22H46S2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-ethylthio-1-octadecene | C(C)SC=CCCCCCCCCCCCCCCCC | C20H40S
